US05739129
1H-Indole-2-carboxylic acid {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2,4-dioxo-5-pyrimidin-2-yl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide
To a solution of 2-(3-Amino-2,4-dioxo-5-pyrimidin-2-yl-2,3,4,5-tetrahydro-benzo [b] [1,4]diazepine-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (933 mg, 1.97 mmol) in DMF (20 mL) were added indole-2-carboxylic acid (333 mg, 2.07 mmol), N-hydroxybenzotriazole (266 mg, 1.97 mmol), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (415 mg, 2.16 mmol) successively with stirring at ambient temperature. The resultant mixture was stirred at ambient temperature for 18 hours. The solvent was evaporated under reduced pressure to give a yellow oil which was dissolved in ethyl acetate (100 mL), washed with water (2×30 mL), dried over MgSO4, filtered and concentrated under reduced pressure to a give a tan foam. The crude product was purified by flash chromatography on silica gel (30 g) eluting with ethyl acetate (600 mL). Appropriate fractions were combined and concentrated in vacuo to give the title compound (902 mg, 1.46 mmol) as a white foam: 1H NMR (CDCl3, 400 MHz): 9.44 (s 1H), 8.75 (d, 2H, J=4.4 Hz), 7.64-6.88 (m,15H), 5.60 (d, 1H, J=6.8 Hz), 5.03 (m, 1H), 4.45 (d, 1H, J=16.6 Hz), 3.99 (d, 1H, J=16.6 Hz), 3.81 (s, 3H), 1.07 (m, 6H); TLC (CH2Cl2 /CH3OH (19:1)): Rf =0.63; MS (FAB) m/z 618.2 (MH+).

reactant | 2-(3-Amino-2,4-dioxo-5-pyrimidin-2-yl-2,3,4,5-tetrahydro-benzo [b] [1,4]diazepine-1-yl)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.97 mmol, 933 mg | NC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=NC=CC=N2)=O | C25H26N6O4
reactant | indole-2-carboxylic acid | 2.07 mmol, 333 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | N-hydroxybenzotriazole | 1.97 mmol, 266 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.16 mmol, 415 mg | Cl.CN(CCCN=C=NCC)C
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1H-Indole-2-carboxylic acid {1-[Isopropyl-(4-methoxy-phenyl)-carbamoylmethyl]-2,4-dioxo-5-pyrimidin-2-yl-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl}-amide | 1.46 mmol, 902 mg | C(C)(C)C(N1C2=C(N(C(C(C1=O)NC(=O)C=1NC3=CC=CC=C3C1)=O)C1=NC=CC=N1)C=CC=C2)(C(N)=O)C2=CC=C(C=C2)OC | C34H31N7O5
